US08614206B2
To a stirred solution of 2-bromo-5-(isopropoxycarbonylamino)-thiazole-4-carboxylic acid (650.0 mg, 2.01 mmol) and [(R)-1-(4-amino-2-methyl-2H-pyrazol-3-yl)-azepan-4-yl]-carbamic acid benzyl ester (828.9 mg, 2.41 mmol, 1.2 eq.) in anhydrous N,N-dimethylformamide (22 mL) was added HATU (1.07 g, 2.81 mmol, 1.4 eq.) followed by N,N-diisopropylethylamine (0.88 mL, 5.03 mmol, 2.5 eq.), and the reaction mixture was stirred at RT under N2 for 7 days. The reaction mixture was diluted with ethyl acetate (150 mL). The organic layer was washed with 50% brine/water, water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude was purified via flash column chromatography eluted with 45 to 100% ethyl acetate/heptane to give 1.30 g (79.7%) of ((R)-1-{4-[(2-Bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester as a tacky gel. 1H NMR (400 MHz, CDCl3) δ 10.28 (s, 1H), 8.39 (s, 1H), 7.74 (s, 1H), 7.33 (s, 5H), 5.09 (s, 2H), 4.98 (s, 1H), 3.89 (s, 1H), 3.72 (s, 3H), 3.36-3.21 (m, 2H), 3.16-3.03 (m, 2H), 2.19-2.01 (m, 2H), 2.00-1.61 (m, 4H), 1.51 (s, 9H)

reactant | 2-bromo-5-(isopropoxycarbonylamino)-thiazole-4-carboxylic acid | 2.01 mmol, 650.0 mg | BrC=1SC(=C(N1)C(=O)O)NC(=O)OC(C)C | C8H9BrN2O4S
reactant | [(R)-1-(4-amino-2-methyl-2H-pyrazol-3-yl)-azepan-4-yl]-carbamic acid benzyl ester | 2.41 mmol, 828.9 mg, 1.2 eq. | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1N)C)=O | C18H25N5O2
reactant | HATU | 2.81 mmol, 1.07 g, 1.4 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5.03 mmol, 0.88 mL, 2.5 eq. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 22 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | ((R)-1-{4-[(2-Bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester | 1.30 g, 79.7% | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1NC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)Br)C)=O | C27H34BrN7O5S
